US07842696B2
DIPEA (0.11 mL, 0.64 mmol) was added drop wise to 2,4-dichlorobenzoic acid (48 mg, 0.26 mmol) in DMF (5 mL). EDCI (102 mg, 0.53 mmol) and HOBT (34 mg, 0.26 mmol) were added consecutively. After 10 mins, N-(2-Oxo-2-piperazin-1-yl-ethyl)-4-phenoxy-benzamide hydrochloride (80 mg, 0.21 mmol) was added and the resulting mixture was stirred at room temperature overnight. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the crude product. Purification using column chromatography (silica gel of mesh size of 60-120 using 60:40 EtOAc:hexane as eluent) afforded N-{2-[4-(2,4-Dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-4-phenoxy-benzamide: in 64% yield. LC-MS purity: 97%, 1H NMR (DMSO-D6): δ 8.5 (t, 1H), 7.9 (d, 2H), 7.7 (s, 1H), 7.5 (m, 4H), 7.2 (t, 1H), 7.1 (m, 4H), 4.2 (dd, 2H), 3.6 (m, 4H), 3.5 (m, 2H), 3.2 (m, 2H).

reactant | DIPEA | 0.64 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichlorobenzoic acid | 0.26 mmol, 48 mg | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | EDCI | 0.53 mmol, 102 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.26 mmol, 34 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-(2-Oxo-2-piperazin-1-yl-ethyl)-4-phenoxy-benzamide hydrochloride | 0.21 mmol, 80 mg | Cl.O=C(CNC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)N1CCNCC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N-{2-[4-(2,4-Dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-4-phenoxy-benzamide | 64% yield | ClC1=C(C(=O)N2CCN(CC2)C(CNC(C2=CC=C(C=C2)OC2=CC=CC=C2)=O)=O)C=CC(=C1)Cl | C26H23Cl2N3O4
